US06653471B2
2-Ethyl-5,6-dihydro-4H-thiazolo[4,5-e]indole-8-carboxylic acid ethyl ester
The title compound is prepared by reacting 5-bromo-4-oxo-4,5,6,7-tetrahydro-indole 1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester with thiopropionamide essentially according to the procedures described in Example 15, Step 3. 1H NMR (CDCl3) 1.33-1.42 (m, 6H), 2.80-2.90 (m, 2H), 2.98-3.10 (m, 4H), 2.37 (q, 2H), 7.24 (s, 1H), 8.60 (s, 1H).

reactant | 5-bromo-4-oxo-4,5,6,7-tetrahydro-indole 1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester | C(C)OC(=O)C1=CN(C=2CCC(C(C12)=O)Br)C(=O)OC(C)(C)C | C16H20BrNO5
reactant | thiopropionamide | C(CC)(=S)N | C3H7NS
product | 2-Ethyl-5,6-dihydro-4H-thiazolo[4,5-e]indole-8-carboxylic acid ethyl ester | C(C)OC(=O)C1=CNC=2CCC3=C(C12)N=C(S3)CC | C14H16N2O2S
